* Z:\mnt\design.r\spice\examples\2906.asc
V1 N002 0 PWL(0 0 1m 2.5)
V2 N001 0 PWL(0 0 1m .8)
R1 N005 N006 100K
V3 N005 0 5
XU1 0 N006 N004 N002 N002 N003 0 0 LTC2906
R2 N001 N003 49.9K
R3 N003 0 100K
C2 N003 0 .1µ
R4 N005 N004 100K
.tran 300m
.lib LTC2906.sub
.backanno
.end
